US04405617
To a mixture of benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (syn isomer)(1.9 g) in methylene chloride (19.0 ml) were added anisole (2.3 g) and trifluoroacetic acid (6.2 g) with stirring under ice-cooling and then the resulting mixture was stirred for an hour at room temperature. After the evaporation of the reaction mixture, to the residue were added water and ethyl acetate. The organic layer was separated and adjusted to pH 7.0 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated, washed with ethyl acetate (x2) and then concentrated. The concentrate was adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and then dried over phosphorus pentoxide to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.95 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 1.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=NN(N2)CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C31H27N9O5S3
reactant | anisole | 2.3 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 6.2 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 19.0 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 0.95 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=NN(N2)CC#C)C(=O)O)C1=O)C=1N=C(SC1)N | C18H17N9O5S3
